US07223791B2
A mixture of methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoate (0.800 g), 1 M aqueous sodium hydroxide solution (4.6 ml) and tetrahydrofuran (5 ml) was heated under reflux for 1.5 hrs. After cooling, 1 M hydrochloric acid was added to acidify the mixture. The crystals were collected by filtration to give 4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid (0.71 g, yield 92%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: >300° C.

reactant | methyl 4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoate | 0.800 g | FC(C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H11F3N2O3
reactant | sodium hydroxide | 1 M, 4.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[5-(4-trifluoromethylphenyl)-1,3,4-oxadiazol-2-yl]benzoic acid | 0.71 g, yield 92% | FC(C1=CC=C(C=C1)C1=NN=C(O1)C1=CC=C(C(=O)O)C=C1)(F)F | C16H9F3N2O3
